US06465482B2
1-Ethyl-3-{(1,4-cis)-4-[4-(1H-indol-4-yl)-piperazin-1-yl]-cyclohexyl}-1H-indole-5-carbonitrile
A solution of 4-(5-cyano-1-ethyl-indol-3-yl)-cyclohexanone (1.5 g, 5.6 mmol), 1-(indol-4-yl)piperazine (1.19 g, 5.9 mmol), sodium triacetoxyborohydride (1.73 g, 8.2 mmol) and acetic acid (0.9 ml, 15 mmol) in 1,2-dichloroethane (30 ml) was allowed to stir at room temperature overnight. The reaction was quenched with 1N sodium hydroxide (10 ml), extracted with methylene chloride (3×80 ml), and washed with brine (3×80 ml). The organic layer was dried over anhydrous sodium sulfate and filtered. Chromatography (2.5% methanol-ethyl acetate) afforded 0.98 g (39%) of product as a white solid: mp 226° C. (dec.).

reactant | 4-(5-cyano-1-ethyl-indol-3-yl)-cyclohexanone | 5.6 mmol, 1.5 g | C(#N)C=1C=C2C(=CN(C2=CC1)CC)C1CCC(CC1)=O | C17H18N2O
reactant | 1-(indol-4-yl)piperazine | 5.9 mmol, 1.19 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
reactant | sodium triacetoxyborohydride | 8.2 mmol, 1.73 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 15 mmol, 0.9 ml | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 1-Ethyl-3-{(1,4-cis)-4-[4-(1H-indol-4-yl)-piperazin-1-yl]-cyclohexyl}-1H-indole-5-carbonitrile | 0.98 g, 39% | CCN1C=C(C2=C1C=CC(=C2)C#N)C3CCC(CC3)N4CCN(CC4)C5=CC=CC6=C5C=CN6 | C29H33N5
